US07442696B2
Methyl chloroformate (1.2 equiv) is added to a solution of a 2-(aminophenyl)alkanol (1 equiv) and DMAP (0.10 equiv) in pyridine (1 M) at 0° C. Additional pyridine is added as needed to keep the precipitates from accumulating. The solution is allowed to warm to room temperature and stirred for 2 hours. Sodium bisulfate (2N) and ethyl acetate are added, resulting in an aqueous layer and a first organic layer. The first organic layer is collected and the aqueous layer extracted with ethyl acetate. The organic layer from that extraction is combined with the first organic layer and that combined organic layer is washed sequentially with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford a solid. To the solid is added potassium carbonate (2 equiv) in DMF (0.5-0.7 M) and that mixture is heated to 100° C. for 1-4 hours. The mixture is cooled and poured into ethyl acetate:water, resulting in a first organic layer and an aqueous layer. The first organic layer is collected and the aqueous layer is extracted with ethyl acetate. The organic layer from that extraction is combined with the collected first organic layer, and the combined organic layers are washed sequentially with water and brine, dried over magnesium sulfate, filtered, and concentrated to afford the 1,4-dihydro-2H-3,1-benzoxazin-2-one.

reactant | Methyl chloroformate | 1.2 equiv | ClC(=O)OC | C2H3ClO2
reactant | potassium carbonate | 2 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | pyridine | 1 M | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.10 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.5-0.7 M | CN(C)C=O | C3H7NO
product | 1,4-dihydro-2H-3,1-benzoxazin-2-one | N1C(OCC2=C1C=CC=C2)=O | C8H7NO2
